US07820657B2
Preparation of 1-(5-tert-Butyl-isoxazol-3-yl)-3-[4-(7-morpholin-4-yl-benzo[d]imidazo[2,1-b]thiazol-2-yl)-phenyl]-urea; [Compound A6]
1-(5-tert-butyl-isoxazol-3-yl)-3-{4-[7-(4-methyl-piperazin-1-yl)-benzo[d]imidazo[2,1-b]thiazol-2-yl]-phenyl}-urea. was prepared in a manner similar to Steps A-D, except that in Step A, 6-morpholin-4-ylbenzothiazol-2-ylamine was substituted with 6-(4-methylpiperazin-1-yl)-1,3-benzothiazol-2-amine. 1H NMR (CDCl3) δ 9.3 (br, 1H), 7.84 (d and s, 3H), 7.59 (br, 1H), 7.56 (d, 2H), 7.49 (d, 1H), 7.20 (d, 1H), 7.05 (dd, 1H), 5.86 (s, 1H), 3.250 (t, 4H), 2.62 (t, 4H), 2.38 (s, 3H), 1.36 (s, 9H). [Compound A7]

reactant | 1-(5-tert-butyl-isoxazol-3-yl)-3-{4-[7-(4-methyl-piperazin-1-yl)-benzo[d]imidazo[2,1-b]thiazol-2-yl]-phenyl}-urea | C(C)(C)(C)C1=CC(=NO1)NC(=O)NC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1)C=CC(=C3)N3CCN(CC3)C | C28H31N7O2S
reactant | 6-morpholin-4-ylbenzothiazol-2-ylamine | N1(CCOCC1)C1=CC2=C(N=C(S2)N)C=C1 | C11H13N3OS
reactant | 6-(4-methylpiperazin-1-yl)-1,3-benzothiazol-2-amine | CN1CCN(CC1)C1=CC2=C(N=C(S2)N)C=C1 | C12H16N4S
product | 1-(5-tert-Butyl-isoxazol-3-yl)-3-[4-(7-morpholin-4-yl-benzo[d]imidazo[2,1-b]thiazol-2-yl)-phenyl]-urea | C(C)(C)(C)C1=CC(=NO1)NC(=O)NC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1)C=CC(=C3)N3CCOCC3 | C27H28N6O3S
